US06528525B1
2-Butyl-3-[4-[2-(4′-hydroxymethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid (exemplification No. 4-211 compound)
Sodium borohydride (95%, 34 mg) was added to a solution of 2-butyl-3-[4-[2-(4′-formylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid (366 mg) in ethanol (10 ml) at ambient temperature. The mixture was stirred for 1.5 hours. At the end of this time 50% acetic acid was added to the reaction mixture. The mixture was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water. The ethyl acetate layer was separated and washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. Diisopropyl ether was added to the residue to give the title compound (331 mg) as colorless crystals.

reactant | Sodium borohydride | 34 mg | [BH4-].[Na+]
reactant | 2-butyl-3-[4-[2-(4′-formylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid | 366 mg | C(CCC)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C29H31NO5
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-Butyl-3-[4-[2-(4′-hydroxymethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid | 331 mg | C(CCC)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)CO | C29H33NO5
